### PR TITLE
Add Erdős Problem 815 (cycles in degree 3 critical graphs), link the formal disproof

### LINKED ISSUE #6252: Erdős Problem 815
### What is the Erdős problem?

https://www.erdosproblems.com/815

Let $k\geq 3$ and $n$ be sufficiently large. Is it true that if $G$ is a graph with $n$ vertices and $2n-2$ edges such that every proper induced subgraph has minimum degree $\leq 2$ then $G$ must contain a copy of $C_k$?

Status: disproved (Narins–Pokrovskiy–Szabó: arbitrarily large such graphs with no $C_{23}$; the even case remains open). A formal proof exists in plby/lean-proofs (`Erdos815.not_erdos_815`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6252.

### What changed
Adds `FormalConjectures/ErdosProblems/815.lean` with `IsDegreeThreeCritical G` (`2n - 2` edges, every proper induced subgraph has minimum degree `≤ 2`) and:
- `erdos_815` (`research solved`, `answer(False)`): it is false that for every `k ≥ 3` all large degree `3` critical graphs contain `C_k` (Narins–Pokrovskiy–Szabó [NPS17]). Linked to plby/lean-proofs `Erdos815.not_erdos_815` (Codex and GPT-5.6 Sol; single Mathlib-only file, formalising the NPS construction).
- `erdos_815.variants.twenty_three` (also linked): arbitrarily large degree `3` critical graphs with no `C_23`.
- `erdos_815.variants.even` (open), `small_cycles` and `long_cycle` (Erdős–Faudree–Gyárfás–Schelp [EFGS88]).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos815.not_erdos_815` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both linked statements on top of a renamed copy, same axioms (the criticality predicates agree after `Fintype.card_fin`):

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph
open scoped SimpleGraph

namespace Bridge815

lemma isDegreeThreeCritical_iff {n : ℕ} (G : SimpleGraph (Fin n)) :
    Erdos815.IsDegreeThreeCritical G ↔ Erdos815Plby.DegreeThreeCritical G := by
  classical
  unfold Erdos815.IsDegreeThreeCritical Erdos815Plby.DegreeThreeCritical
  simp only [Fintype.card_fin]

theorem erdos_815_bridge : type_of% Erdos815.erdos_815 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  refine Erdos815Plby.not_erdos_815 fun k hk => ?_
  obtain ⟨N, hN⟩ := eventually_atTop.1 (h k hk)
  exact ⟨N, fun n hn G hG => hN n hn G ((isDegreeThreeCritical_iff G).2 hG)⟩

theorem erdos_815_twenty_three_bridge : type_of% Erdos815.erdos_815.variants.twenty_three := by
  rw [frequently_atTop]
  intro N
  obtain ⟨n, hn, G, hG, hC⟩ := Erdos815Plby.arbitraryCounterexamples_to_fin
    Erdos815Plby.nps_arbitrarily_large_counterexamples N
  exact ⟨n, hn, G, (isDegreeThreeCritical_iff G).2 hG, hC⟩

end Bridge815
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«815»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/815.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/815.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/815.lean [hunk 2]
```diff
@@ -0,0 +1,106 @@
...
+namespace Erdos815
+
+open scoped Classical in
+/--
+A graph on `n` vertices is *degree $3$ critical* if it has `2n - 2` edges and every proper
+induced subgraph has minimum degree `≤ 2`.
+-/
+def IsDegreeThreeCritical {n : ℕ} (G : SimpleGraph (Fin n)) : Prop :=
+  G.edgeFinset.card = 2 * n - 2 ∧
+    ∀ s : Set (Fin n), s ≠ Set.univ → (G.induce s).minDegree ≤ 2
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/815.lean:48]: consider moving to `FormalConjecturesForMathlib`, seems quite re-usable
